US04193994
Formaldehyde (4.86 g, 37% solution, 30 mmole) was added to a solution of 2,4-dimethyl-phenyl thiourea (4.5 g, 24 mmole) in dimethylformamide (40 ml) and the solution was stirred for 15 minutes at room temperature. Methylamine (3.72 g, 30 mmole) was added dropwise with stirring and the mixture was heated under reflux at 100° C. for 4 hours. The solution was cooled and the solvent removed under vacuum to yield an oil. This was diluted with diethyl-ether and refrigerated to yield 1-(2,4-dimethylphenyl)-5-methyl-tetrahydro-s-triazin-2[1H]-thione as a white crystalline solid which was collected, washed with a little cold diethyl ether and dried (4.5 g, 77%), m.p. 140°-143° C.

reactant | Formaldehyde | 30 mmole, 4.86 g | C=O | CH2O
reactant | 2,4-dimethyl-phenyl thiourea | 24 mmole, 4.5 g | CC1=C(C=CC(=C1)C)NC(=S)N | C9H12N2S
reactant | Methylamine | 30 mmole, 3.72 g | CN | CH5N
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | diethyl-ether | C(C)OCC | C4H10O
product | 1-(2,4-dimethylphenyl)-5-methyl-tetrahydro-s-triazin-2[1H]-thione | CC1=C(C=CC(=C1)C)N1C(NCN(C1)C)=S | C12H17N3S
